US05824661
Synthesis of [2-(Acetylthio)ethylidene]bis[Phosphonic Acid] Disodium Salt
Tetrasodium ethenylidenebis(phosphonate) (2.76 g, 10 mmol) [prepared as described in R. L. Carroll, U.S. Pat. No. 3,686,290 (1972) and in R. L. Carroll and M. M. Crutchfield, Canadian Patent 811,736 (1969)] and thiolacetic acid (3.81 g, 50 mmol) are dissolved in water (20 ml) and stirred at room temperature under an atmosphere of nitrogen for 20 hours. The reaction mixture is then concentrated under reduced pressure and further dried under vacuum overnight. The solid product is triturated in warm ethanol, cooled and filtered while washing with diethyl ether to yield pure product as a pale yellow solid.

reactant | Tetrasodium ethenylidenebis(phosphonate) | 10 mmol, 2.76 g | C(=C)(P([O-])([O-])=O)P([O-])([O-])=O.[Na+].[Na+].[Na+].[Na+]
reactant | thiolacetic acid | 50 mmol, 3.81 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | water | 20 ml | O | H2O
product | [2-(Acetylthio)ethylidene]bis[Phosphonic Acid] Disodium Salt | [Na+].[Na+].C(C)(=O)SCC(P(O)(O)=O)P([O-])([O-])=O | InChI=1S/C4H10O7P2S.2Na/c1-3(5)14-2-4(12(6,7)8)13(9,10)11;;/h4H,2H2,1H3,(H2,6,7,8)(H2,9,10,11);;/q;2*+1/p-2
